US20010010293A1
940 g (about 12.0 mole) of benzene was charged into a 3 L 4-necked flask and cooled to below 5° C. in an ice bath, followed by the addition of 1080 g (about 10.5 moles) of 95 concentrated sulfuric acid. The mixture was further cooled until the interior of the reaction vessel was cooled to below 5° C., followed by the addition of a mixture of 550 g (about 4.8 moles) of 2-methylcyclohexanol and 400 g (about 3.8 moles) of benzene in droplets over 5 hours. Thereafter, the reaction was continued for 2 hours. The reaction solution was transferred into a 5 L separatory funnel to separate the sulfuric acid phase. 1 L of pure water was then added to the solution 5 times so as to dissolve and remove the by-products and other impurities. The resulting solution was made alkali with 1% aqueous solution of sodium hydroxide, followed by the addition of 1 L of water until the aqueous phase was made neutral. After the separation of the aqueous phase, the remaining was dehydrated with sodium sulfate anhydride, followed by removal of the light fractions and the excess benzene under at a temperature of 100° C. and pressure of 0.4 kPa (3 mmHg) thereby obtaining about 900 g of crude 1-phenyl-1-methylcyclohexane. This was subjected to vacuum distillation thereby obtaining 800 g of a fraction having a boiling point of 119.7 to 120.5° C. at a pressure of 0.4 kPa (3mmHg). The fraction was charged into a 2 L autoclave, followed by the addition of 8 g of a nickel-based hydrogenating catalyst. The reaction was carried out at a temperature of 150° C. and at a maximum pressure of 6.86×106 Pa (70 kg/cm2) until the absorption of hydrogen did not occurred. Thereafter, the catalyst was removed thereby obtaining about 820 g of the targeted product represented by the formula

reactant | benzene | about 12.0 mole, 940 g | C1=CC=CC=C1 | C6H6
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 2-methylcyclohexanol | about 4.8 moles, 550 g | CC1C(CCCC1)O | C7H14O
reactant | benzene | about 3.8 moles, 400 g | C1=CC=CC=C1 | C6H6
product | 1-phenyl-1-methylcyclohexane | about 900 g | C1(=CC=CC=C1)C1(CCCCC1)C | C13H18
